US06426418B1
Preparation of N,N-Diethyl-3-hydroxy-1,6-dimethyl-4-oxo-1,4-dihydropyridine-2-carboxamide
Pd(OH)2 on charcoal (0.1 g) was added to a solution of 3-(benzyloxy)-N,N-diethyl-1,6-dimethyl-4-oxo-1,4-dihydropyridine-2-carboxamide(1.0 g, 3.05 mmol) in ethanol (100 ml) under nitrogen. The mixture was hydrogenated at 50 psi hydrogen for 4 hrs. The Pd(OH)2 was removed by filtration through Celite and the Celite cake was washed with ethanol (3×10 ml). The ethanol filtrate was evaporated to give a slightly red solid (0.66 g, 94%). Melting point: 128 to 130° C. H-NMR (CDCl3) σδ: 1.19 (t, J=7.11 Hz, 3H, Me), 1.30 (t, J=7.00 Hz, 3H, Me), 2.36 (s, 3H, Me), 3.36 (m, 2H, CH2), 3.38 (s, 3H, NMe), 3.64 (q, J=6.90 Hz, 2H, CH2), 6.35 (s, 1H, CH), Mass spect. 239 (M+1).

reactant | 3-(benzyloxy)-N,N-diethyl-1,6-dimethyl-4-oxo-1,4-dihydropyridine-2-carboxamide | 3.05 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(N(C(=CC1=O)C)C)C(=O)N(CC)CC | C19H24N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 on charcoal | 0.1 g | [OH-].[OH-].[Pd+2]
product | N,N-Diethyl-3-hydroxy-1,6-dimethyl-4-oxo-1,4-dihydropyridine-2-carboxamide | 0.66 g, 94% | C(C)N(C(=O)C=1N(C(=CC(C1O)=O)C)C)CC | C12H18N2O3
